US06362201B1
3-(RS)-(4-(4-Fluorophenyl)piperidinylmethyl)-4-(SR)-(cyclopropyl)pyrrolidine
A mixture of 0.2 g (0.58 mmol) of 1-allyl-3-(RS)-(4-(4-fluoro phenyl)piperidinylmethyl)-4-(SR)-(cyclopropyl)pyrrolidine and 0.02 g (0.02 mmol) of Wilkinson's catalyst [Rh(PPh)3Cl] in 10 mL of an 90% solution of CH3CN and water in a Dean-Stark apparatus was heated at reflux and stirred for 3 h. The reaction mixture was cooled to rt and concentrated. The residue was purified by chomatography (silica, CHCl3: MeOH: NH3, 90: 10:1) to give the title compound.

reactant | 1-allyl-3-(RS)-(4-(4-fluoro phenyl)piperidinylmethyl)-4-(SR)-(cyclopropyl)pyrrolidine | 0.58 mmol, 0.2 g | C(C=C)N1CC(C(C1)C1CC1)CN1CCC(CC1)C1=CC=C(C=C1)F | C22H31FN2
reactant | CH3CN | CC#N | C2H3N
catalyst | Wilkinson's catalyst | 0.02 mmol, 0.02 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[Cl-].[Rh]
solvent | water | O | H2O
product | 3-(RS)-(4-(4-Fluorophenyl)piperidinylmethyl)-4-(SR)-(cyclopropyl)pyrrolidine | FC1=CC=C(C=C1)C1CCN(CC1)CC1CNCC1C1CC1 | C19H27FN2
